US06906084B2
1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid (1-formyl-piperidin-4-yl)-amide
A solution of 50 mg 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid piperidin-4-ylamide in 2 ml formic acid was heated to 100° C. for 5 h. After removal of the solvent under reduced pressure the residue directly purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid). After lyophilization the product was obtained as a white solid. Yield: 14 mg MS (ES+): m/e=469, chloro pattern.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid piperidin-4-ylamide | 50 mg | N1CCC(CC1)NC(=O)C=1N(C2=CC=CC=C2C1)CC1=NOC(=C1)C=1SC(=CC1)Cl | C22H21ClN4O2S
reactant | formic acid | 2 ml | C(=O)O | CH2O2
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2-carboxylic acid (1-formyl-piperidin-4-yl)-amide | C(=O)N1CCC(CC1)NC(=O)C=1N(C2=CC=CC=C2C1)CC1=NOC(=C1)C=1SC(=CC1)Cl | C23H21ClN4O3S
